US05407950
1-[3-(Indan-2-ylacetyl)-L-thioprolyl]-L-prolinol (590 mg) and trimethylamine (1.32 ml) were dissolved in 1.50 ml of dimethyl sulfoxide, followed by addition of 1.55 g of sulfur trioxide-pyridine complex dissolved in 2.25 ml of dimethyl sulfoxide at room temperature under agitation, which was then agitated for 15 minutes. The reaction solution was placed in ice-cold water, followed by extraction with chloroform. The organic phase was washed sequentially in 5% HCl, saturated aqueous sodium bicarbonate solution, saturated aqueous sodium chloride solution, followed by drying over anhydrous magnesium sulfate. After distilling off the solvent under reduced pressure, the residue was purified by column chromatography, to obtain 107 mg of 1-[3-(indan-2-yl acetyl)-L-thioprolyl]-L-prolinal. Yield; 18%.

reactant | 1-[3-(Indan-2-ylacetyl)-L-thioprolyl]-L-prolinol | 590 mg | C1C(CC2=CC=CC=C12)CC(=O)C1[C@H](NCS1)C(=O)N1[C@H](CO)CCC1 | C20H26N2O3S
reactant | trimethylamine | 1.32 ml | CN(C)C | C3H9N
solvent | dimethyl sulfoxide | 1.50 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 2.25 ml | CS(=O)C | C2H6OS
product | 1-[3-(indan-2-yl acetyl)-L-thioprolyl]-L-prolinal | 107 mg, Yield; 18% | C1C(CC2=CC=CC=C12)CC(=O)C1[C@H](NCS1)C(=O)N1[C@H](C=O)CCC1 | C20H24N2O3S
